US07645789B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-formyl-1H-indol-5-yl)cyclopropanecarboxamide (100 mg, 0.25 mmol) in dichloromethane (5 mL) was added hydroxylamine hydrochloride (21 mg, 0.30 mmol). After stirring for 48 h, the mixture was evaporated to dryness and purified by column chromatography (0-100% ethyl acetate/hexanes) to yield (Z)-1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-((hydroxyimino)methyl)-1H-indol-5-yl)cyclopropanecarboxamide (81 mg, 77%). ESI-MS m/z calc. 419.5, found 420.5 (M+1)+; retention time 3.42 minutes. 1H NMR (400 MHz, DMSO-d6) δ 10.86 (s, 0.5H), 10.55 (s, 0.5H), 8.56-8.50 (m, 2H), 8.02 (m, 1H), 7.24-7.22 (m, 1H), 7.12-7.10 (m, 1H), 7.03 (m, 1H), 6.96-6.90 (m, 2H), 6.03 (s, 2H), 1.43 (s, 9H), 1.40-1.38 (m, 2H), 1.04-1.01 (m, 2H).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-formyl-1H-indol-5-yl)cyclopropanecarboxamide | 0.25 mmol, 100 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C(=C(NC1=CC2)C(C)(C)C)C=O | C24H24N2O4
reactant | hydroxylamine hydrochloride | 0.30 mmol, 21 mg | Cl.NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (Z)-1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-((hydroxyimino)methyl)-1H-indol-5-yl)cyclopropanecarboxamide | 81 mg, 77% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C(=C(NC1=CC2)C(C)(C)C)\C=N/O | C24H25N3O4
